US05922086
1H-Perimidine
95.0 g of formic acid are added to 15.8 g of 1,8-diaminonaphthalene and the mixture is stirred at reflux temperature (100° C.) for 1 hour. Then 200 ml of water are added, and the mixture is cooled to 15-20° C. and adjusted to a pH of 8.5 by addition of 25% strength by weight ammonia. It is cooled to 10° C. and subsequently stirred at 10° C. for 1 hour. The product which is precipitated is isolated by filtration, washed with water and dried in vacuo at 800 C.

reactant | formic acid | 95.0 g | C(=O)O | CH2O2
reactant | 1,8-diaminonaphthalene | 15.8 g | NC1=CC=CC2=CC=CC(=C12)N | C10H10N2
reactant | ammonia | N | H3N
solvent | water | 200 ml | O | H2O
product | 1H-Perimidine | N1C=NC2=CC=CC3=CC=CC1=C23 | C11H8N2
